US04103009
2,4-diamino-6-(3-trifluoromethyl-6-methoxyethoxyphenyl)-s-triazine
6.3 g of 3-cyano-4-chlorobenzotrifluoride, 3.1 g of dicyanodiamide and 1.0 g of caustic potash are refluxed in 10 ml of methyl cellosolve for 5 hours. After cooling, the mixture is diluted with water and the separated crystals are recrystallized from methanol. Melting point: 224°-226° C.; yield: 4.3 g.

reactant | 3-cyano-4-chlorobenzotrifluoride | 6.3 g | C(#N)C=1C=C(C=CC1Cl)C(F)(F)F | C8H3ClF3N
reactant | dicyanodiamide | 3.1 g | C(#N)N=C(N)N | C2H4N4
reactant | caustic potash | 1.0 g | [OH-].[K+]
reactant | methyl cellosolve | 10 ml | COCCO | C3H8O2
solvent | water | O | H2O
product | 2,4-diamino-6-(3-trifluoromethyl-6-methoxyethoxyphenyl)-s-triazine | NC1=NC(=NC(=N1)N)C1=CC(=CC=C1OCCOC)C(F)(F)F | C13H14F3N5O2
